US06958327B1
9.2 2-Fluoro-gona-1,3,5(10)-triene-3,17-diol
The solution of 0.53 g of 2-fluoro-3-methoxy-gona-1,3,5(10)-trien-17β-ol in 50 ml of toluene is mixed with 5 ml of 20% solution of DIBAH in toluene and heated for 2 hours to 80° C. After cooling, water is added drop by drop until the reaction has run its course, then it is dispersed between water and ethyl acetate, the ethyl acetate phase is washed with concentrated common salt solution and dried with sodium sulfate. After evaporation, a residue remains that is chromatographed on silica gel with hexane-ethyl acetate, and the yield is 0.32 g (63% of theory).

reactant | 2-fluoro-3-methoxy-gona-1,3,5(10)-trien-17β-ol | 0.53 g | FC=1C(=CC=2CC[C@@H]3[C@H](CC[C@@H]4[C@H](CC[C@@H]34)O)C2C1)OC | C18H23FO2
reactant | DIBAH | CC(C)C[AlH]CC(C)C
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Fluoro-gona-1,3,5(10)-triene-3,17-diol | FC=1C(=CC=2CC[C@@H]3[C@H](CC[C@@H]4C(CC[C@@H]34)O)C2C1)O | C17H21FO2
